US05693639
A suspension of N-(4-chlorosulfonylphenyl)phosphoramidic dichloride (1.0 g) and N-methylaniline (2.49 g) in water (5 ml) was heated at reflux for 18 hours. After cooling to 0° C. and adjustment to pH2 with concentrated hydrochloric acid, the suspension was heated at reflux for 30 minutes, then cooled to 0° C. and adjusted to pH 8 with concentrated ammonium hydroxide. The suspension was extracted with ethyl acetate (3×40 ml), the combined organic extracts were washed with brine, dried (Na2SO4), and concentrated to an oil. Purification by chromatography (3:2 hexane: ethyl acetate) gave 4-(N-phenyl-N-methylaminosulfonyl)aniline as a colourless crystalline solid (0.65 g); MS: m/z=263(M+1); NMR (CDCl3): 3.13 (s,3), 4.11 (broad s,2), 6.58-6.62 (m, 2), 7.10-7.13 (m,2), 7.23-7.31 (m,s).

reactant | N-(4-chlorosulfonylphenyl)phosphoramidic dichloride | 1.0 g | ClS(=O)(=O)C1=CC=C(C=C1)NP(=O)(Cl)Cl | C6H5Cl3NO3PS
reactant | N-methylaniline | 2.49 g | CNC1=CC=CC=C1 | C7H9N
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 5 ml | O | H2O
product | 4-(N-phenyl-N-methylaminosulfonyl)aniline | 0.65 g | C1(=CC=CC=C1)N(S(=O)(=O)C1=CC=C(N)C=C1)C | C13H14N2O2S
